* Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\sim_DFFtest.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map PORB 33
.node_map RCLK 30
.node_map RQB 37
.node_map RD 34
.node_map FCLK 32
.node_map FQB 36
.node_map FD 39
.node_map RQ 35
.node_map RPORB 40
.node_map FQ 38
.node_map FPORB 41
.node_map CLK 31
.node_map GND 42
.node_map IN 29
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000

X$DFFtest 29 31 30 33 32 34 35 37 39 38 36 40 41 DFFtest

X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playbrian\nesto\301a\design\DFFtest.sxcmp
.subckt DFFtest 57 58 59 60 61 62 63 65 64 66 67 68 69
*#hierarchy
.node_map PORB 60
.node_map RCLK 59
.node_map RQB 65
.node_map RD 62
.node_map FCLK 61
.node_map FQB 67
.node_map FD 64
.node_map RQ 63
.node_map RPORB 68
.node_map FQ 66
.node_map FPORB 69
.node_map CLK 58
.node_map IN 57
X$dff1 62 59 63 65 68 dff vars: dff_edge='rise' dff_outputs='both' dff_bits=1 dff_vmax=6
X$dff2 64 61 66 67 69 dff vars: dff_edge='fall' dff_outputs='both' dff_bits=1 dff_vmax=6
X$pinprobe1 62 pinprobe vars: pinprobe_description='Rising_D_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe10 58 pinprobe vars: pinprobe_description='CLK' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe11 68 pinprobe vars: pinprobe_description='Rising_PORB_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe12 69 pinprobe vars: pinprobe_description='Falling_PORB_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe13 60 pinprobe vars: pinprobe_description='PORB' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 63 pinprobe vars: pinprobe_description='Rising_Q_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe3 65 pinprobe vars: pinprobe_description='Rising_QB_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe4 64 pinprobe vars: pinprobe_description='Falling_D_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe5 66 pinprobe vars: pinprobe_description='Falling_Q_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe6 67 pinprobe vars: pinprobe_description='Falling_QB_Output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe7 59 pinprobe vars: pinprobe_description='Rising_CLK_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe8 61 pinprobe vars: pinprobe_description='Falling_CLK_Input' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe9 57 pinprobe vars: pinprobe_description='Input' pinprobe_mode='input' pinprobe_input='ebrick' pinprobe_output='tbd' pinprobe_bits=1
X$U1 62 57 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U10 54 65 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U11 55 66 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U12 56 celeranoconn vars: ='%'
X$U13 56 67 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U14 55 celeranoconn vars: ='%'
X$U2 64 57 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U3 59 58 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U4 58 61 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U5 68 60 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U6 69 60 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U7 53 63 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 53 celeranoconn vars: ='%'
X$U9 54 celeranoconn vars: ='%'
.ends DFFtest

** From Z:\celera\projects\Simplis\playbrian\nesto\301a\verification\FORCE_DFFtest.sxcmp


.end
